US04234571
A stirred solution of 3-(2-naphthyl)-D-alanine in a mixture of 55 ml of 1 N NaOH, 10 ml H2O, and 20 ml dioxane was treated with 1.48 g of di-tert-butyl dicarbonate and 0.22 g of magnesium oxide at 0°. After 1.5 hours an additional 0.3 g of di-tert-butyl dicarbonate was added and the mixture was allowed to come to room temperature. The solid was removed by filtration and the filtrate was concentrated to 50 ml. This aqueous solution was brought to pH 2.5 with NaHSO4 and extracted with ethyl acetate. The organic layer was washed with 5% NaHSO4, water and saturated salt solution. The ethyl acetate solution was dried over magnesium sulfate, filtered and concentrated to an oil which was crystallized from ether/hexane to yield 1.3 g of N-Boc 3-(2-naphthyl)-D-alanine, m.p. 90°-91°, [α]D25 -32.6° (c 0.8, MeOH).

reactant | 3-(2-naphthyl)-D-alanine | C1=C(C=CC2=CC=CC=C12)C[C@@H](N)C(=O)O | C13H13NO2
reactant | H2O | 10 ml | O | H2O
reactant | di-tert-butyl dicarbonate | 1.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | magnesium oxide | 0.22 g | [O-2].[Mg+2]
reactant | di-tert-butyl dicarbonate | 0.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1 N, 55 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-Boc 3-(2-naphthyl)-D-alanine | 1.3 g | C(=O)(OC(C)(C)C)N[C@H](CC1=CC2=CC=CC=C2C=C1)C(=O)O | C18H21NO4
